### PR TITLE
feat: Adding a storage option to the KeyStore

### PR DESCRIPTION
**Pull request by seebees**
The key store now allows for both a default DynamoDB table, or any custom storage system.

The important aspect about the key store
is the fact that branch keys can be versioned easily, and are cryptographically safe to use.
The actual storage medium is not important.

See: https://github.com/awslabs/aws-encryption-sdk-specification/blob/master/changes/2024-6-17_key-store-persistance/background.md#background

By submitting this pull request, I confirm that my contribution is made under the terms of the Apache 2.0 license.

### CODE REVIEW

**Review by ajewellamz — APPROVED** [review]
LGTM

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 1]
```diff
@@ -0,0 +1,203 @@
...
+  Type: BranchKeyType,
+
+  @required
+  CreateTime: String,
+
+  @required
+  KmsArn: String,
+
+  @required
+  EncryptionContext: EncryptionContextString,
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:50]: We should clarify if this is just Custom EC or the AAD.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 2]
```diff
@@ -0,0 +1,203 @@
...
+//# The EncryptedKeyStore MUST support the following operations:
+//#
+//#- [WriteNewKeyToStore](#writenewkeytostore)
+//#- [WriteNewBranchKeyVersionToKeystore](#writenewbranchkeyversiontokeystore)
+//#- [GetEncryptedActiveBranchKey](#getencryptedactivebranchkey)
+//#- [GetEncryptedBranchKeyVersion](#getencryptedbranchkeyversion)
+//#- [GetEncryptedBeaconKey](#getencryptedbeaconkey)
+//#- [GetTableName](#gettablename)
+  operations: [
+    WriteNewKeyToStore,
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:75]:
```suggestion
    WriteNewKey,
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 3]
```diff
@@ -0,0 +1,203 @@
...
+    WriteNewBranchKeyVersionToKeystore,
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:76]:
```suggestion
    WriteNewBranchKeyVersion,
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 4]
```diff
@@ -0,0 +1,203 @@
...
+    GetEncryptedActiveBranchKey,
+    GetEncryptedBranchKeyVersion,
+    GetEncryptedBeaconKey,
+    GetTableName,
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:80]: I wish we could make this a more generic method. 
I.e DescribeStorage. 

Imagine an S3 bucket or some other storage that does not use tables.

**Review by texastony — CHANGES_REQUESTED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:1]: This file is long on Duvet, but short on documentation traits. 

Customers have been struggling with using the H-Keyring. 

Let's add some user focused documentation.

**Review by texastony — CHANGES_REQUESTED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy (hunk 4 above)
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:80]: @lucasmcdonald3  and I talked about this.
This value gets returned to the actual caller as "table name" because no one ever calls this directly, only the Key store. Further it will always be a "table like structure".

Comment (texastony) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:80]: Sure... let me try a different sales approach.
DynamoDB, the service, has `Get*` operations.
They also have `Describe*` operations.

Both operations return data.
But the `Get*` operations return customer data,
while the `Describe*` operations return (potentially customer determined) metadata. 

I suggest that `GetTableName` is returning metadata/configuration data. 
Thus, 
I suggest that is better labeled `Describe`.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy (hunk 2 above)
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:75]: ToStore vs ToKeystore

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/KeyStore.smithy [hunk 5]
```diff
@@ -88,19 +84,70 @@ structure KeyStoreConfig {
...
   //# - [DynamoDb Client](#dynamodb-client)
+  //# - [Table Name](#table-name)
   //# - [KMS Client](#kms-client)
-  
+
+  @javadoc("The key management configuration for this Key Store.")
+  keyManagement: KeyManagement,
+
+  @javadoc("The DynamoDB table name that backs this Key Store.")
+  ddbTableName: TableName,
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/KeyStore.smithy:96]: Blocking: By removing the `@required`, the type for `ddbTableName` has changed from String to Optional String.

In Dafny Source code, this a breaking change...
I am not sure if it is a breaking change in our compiled code...

**Review by texastony — CHANGES_REQUESTED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultEncryptedKeyStore.dfy [hunk 6]
```diff
@@ -0,0 +1,720 @@
...
+      var transactRequest := DDB.TransactWriteItemsInput(
+        TransactItems := items,
+        ReturnConsumedCapacity := None,
+        ReturnItemCollectionMetrics := None,
+        ClientRequestToken := None
+      );
+
+      var transactWriteItemsResponse? := ddbClient.TransactWriteItems(transactRequest);
+      var BRANCH_KEY_ACTIVE_VERSION_FIELD :- transactWriteItemsResponse?
+      .MapFailure(e => Types.ComAmazonawsDynamodb(ComAmazonawsDynamodb := e));
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultEncryptedKeyStore.dfy:401]: Issue/Blocking: I hope that Dafny will not let a constant field by modified, 
and strictly speaking this `BRANCH_KEY_ACTIVE_VERSION_FIELD` appears to be scoped to
only this method,
as compared to `Structure.BRANCH_KEY_ACTIVE_VERSION_FIELD`, 
but I still strongly object to this statement as it is.

```suggestion
      var _ :- transactWriteItemsResponse?
      .MapFailure(e => Types.ComAmazonawsDynamodb(ComAmazonawsDynamodb := e));
```

**Review by texastony — CHANGES_REQUESTED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultEncryptedKeyStore.dfy [hunk 7]
```diff
@@ -0,0 +1,720 @@
...
+         BRANCH_KEY_EXISTS_EXPRESSION_ATTRIBUTE_NAME := Structure.BRANCH_KEY_IDENTIFIER_FIELD
+       ]
+  const BRANCH_KEY_NOT_EXIST_CONDITION := "attribute_not_exists(" + BRANCH_KEY_EXISTS_EXPRESSION_ATTRIBUTE_NAME + ")"
+  const BRANCH_KEY_EXISTS_CONDITION := "attribute_exists(" + BRANCH_KEY_EXISTS_EXPRESSION_ATTRIBUTE_NAME + ")"
+
+  datatype ConditionExpression =
+    | BRANCH_KEY_NOT_EXIST
+    | BRANCH_KEY_EXISTS
+
+  class {:termination false} DynamoDBEncryptedKeyStore
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultEncryptedKeyStore.dfy:32]: Issue: We should distinguish b/w Key Store and Key Storage.

Key Store: Read and Authenticate. Generate+ & Write.

Storage: Read & Write.
```suggestion
  class {:termination false} DynamoDBEncryptedKeyStorage
```

**Review by texastony — CHANGES_REQUESTED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 8]
```diff
@@ -0,0 +1,275 @@
...
+  CiphertextBlob: Blob,
+}
+
+map EncryptionContextString {
+  key: String,
+  value: String,
+}
+
+@aws.polymorph#extendable
+resource EncryptedKeyStore {
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:74]: Bikeshedding on name for the Key Store’s Storage interface, 
which is currently called EncryptedKeyStore, 
which Tony is against because… we use Key Store far too often.
- Storage
- Backing Table
- Table

I think I really like Table...

**Review by texastony — CHANGES_REQUESTED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy (hunk 8 above)
Comment (texastony) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:74]: @seebees and I synced on a call, 
EncryptedTable.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy (hunk 4 above)
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy]: Changed to `GetKeyStorageInfo`

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultEncryptedKeyStore.dfy (hunk 6 above)
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultEncryptedKeyStore.dfy]: changed. There is no way to update a const filed, but also this is not the same field.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultKeyStorageInterface.dfy [hunk 9]
```diff
@@ -30,9 +30,9 @@ module DefaultKeyStorageInterface {
     | BRANCH_KEY_EXISTS
 
   class {:termination false} DynamoDBKeyStorageInterface
-    //= aws-encryption-sdk-specification/framework/key-store/dynamodb-key-storage-interface.md#operations
+    //= aws-encryption-sdk-specification/framework/key-store/dynamodb-key-storage.md#operations
     //= type=implication
-    //# The Dynamodb Key Storage Interface MUST implement the [encrypted key store interface](./key-storage-interface.md#interface).
+    //# The Dynamodb Key Storage Interface MUST implement the [key storage interface](./key-storage.md#interface).
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultKeyStorageInterface.dfy:35]: nit: Typo in spec that we can live with
The Dynamodb Key Storage MUST

**Review by texastony — APPROVED** [review]

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 10]
```diff
@@ -0,0 +1,291 @@
...
+  @required
+  @documentation("The create time as an ISO 8061 UTC string.")
+  CreateTime: String,
+
+  @required
+  @documentation("The KMS ARN used to encrypt this encrypted key.")
+  KmsArn: String,
+
+  @required
+  @documentation("The encryption context needed to decrypt this encrypted key.")
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:72]:
```suggestion
  @documentation("The encryption context needed to decrypt this encrypted key. This includes the user the provided custom encryption context, as well as the other Branch Key attributes.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 11]
```diff
@@ -0,0 +1,291 @@
...
+//#- An [EncryptedHierarchicalKey](#encryptedhierarchicalkey) with a [type](#type) of ActiveHierarchicalSymmetricBeacon
+@documentation("
+The information required to atomically write an a new branch key into a key store.
+The identifiers for all keys passed should be the same.
+")
+structure WriteNewEncryptedBranchKeyInput {
+  @required
+  @documentation("
+  The active representation of this branch key.
+  The decrypted form of this key must be the same as the `Version`.
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:157]: Suggestion: "cryptographic material" is a great phrase; "key" is over used. 
```suggestion
  The plain-text cryptographic material of the Active must be the same as the Version.
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 12]
```diff
@@ -0,0 +1,291 @@
...
+  ")
+  Active: EncryptedHierarchicalKey,
+  @required
+  @documentation("
+  The decrypt representation of this branch key.
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:162]: suggestion/comment: "The" implies singular. Which, at the creation time, is accurate, but is not forever true.  
```suggestion
  A DECRYPT_ONLY representation of this branch key.
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 13]
```diff
@@ -0,0 +1,291 @@
...
+  @documentation("
+  An HMAC key used to support searchable encryption.
+  This should be a different key from the other two.
+  ")
+  Beacon: EncryptedHierarchicalKey,
+}
+//= aws-encryption-sdk-specification/framework/key-store/dynamodb-key-storage.md#writenewencryptedbranchkey
+//= type=implication
+//# If DDB TransactWriteItems is successful, this operation MUST return a successful response containing no additional data.
+@documentation("The output of writing a new key. There is currently no additional information returned.")
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:176]: suggestion/note: key is overloaded. Let's be specific.
```suggestion
@documentation("The output of writing a new branch key. There is currently no additional information returned.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 14]
```diff
@@ -0,0 +1,291 @@
...
+structure WriteNewEncryptedBranchKeyOutput {}
+//= aws-encryption-sdk-specification/framework/key-store/key-storage.md#writenewencryptedbranchkeyversion
+//= type=implication
+//# The WriteNewEncryptedBranchKeyVersion caller MUST provide:
+//#
+//#- An [EncryptedHierarchicalKey](#encryptedhierarchicalkey) with a [type](#type) of ActiveHierarchicalSymmetricVersion
+//#- An [EncryptedHierarchicalKey](#encryptedhierarchicalkey) with a [type](#type) of HierarchicalSymmetricVersion
+@documentation("
+The information required to atomically write an a new version for an existing branch key into a key store.
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:185]:
```suggestion
The information required to atomically write a new version for an existing branch key into a key store.
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 15]
```diff
@@ -0,0 +1,291 @@
...
+  @required
+  @documentation("
+  The new active version to be written to the key store.
+  The decrypted form of this key must be the same as the `Version`.
+  ")
+  Active: EncryptedHierarchicalKey,
+  @required
+  @documentation("
+  The decrypt representation of this branch key version.
+  The decrypted form of this key must be the same as the `Active`.
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:198]:
```suggestion
  A DECRYPT_ONLY representation of this branch key.
  The plain-text cryptographic material of the Version must be the same as the Active.
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 16]
```diff
@@ -0,0 +1,291 @@
...
+
+@documentation("Get the ACTIVE version for a particular Branch Key.")
+structure GetEncryptedActiveBranchKeyInput {
+
+  //= aws-encryption-sdk-specification/framework/key-store/key-storage.md#getencryptedactivebranchkey
+  //= type=implication
+  //# The GetEncryptedActiveBranchKey caller MUST provide the same inputs as the [GetActiveBranchKey](../branch-key-store.md#getactivebranchkey) operation.
+
+  @required
+  @documentation("The identifier for the Branch Key to get the ACTIVE version for.")
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:221]:
```suggestion
  @documentation("The identifier for the Branch Key to get the ACTIVE for.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 17]
```diff
@@ -0,0 +1,291 @@
...
+//= type=implication
+//# It MUST return the physical table name.
+@documentation("Output containing information about the underlying storage.")
+structure GetKeyStorageInfoOutput {
+  @required
+  @documentation("The name of the physical resource used for storage.")
+  Name: Utf8Bytes,
+
+  @required
+  @documentation("The name of the physical resource used for storage.")
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:289]: Blocking/Suggestion:
```suggestion
  @documentation("The Logical Key Store Name associated with this Storage.")
```

**Review by texastony — DISMISSED** [review]
I have many non-blocking documentation suggestions.

I have 1 Blocking Suggestion (physical vs logical).
I have not read the entire PR, only the first 10 files.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 18]
```diff
@@ -0,0 +1,291 @@
...
+//= aws-encryption-sdk-specification/framework/key-store/key-storage.md#type
+//= type=implication
+//# A union that MUST hold the following three options
+//#
+//#- ActiveHierarchicalSymmetricVersion [HierarchicalSymmetricVersion](#hierarchicalsymmetricversion)
+//#- HierarchicalSymmetricVersion [HierarchicalSymmetricVersion](#hierarchicalsymmetricversion)
+//#- ActiveHierarchicalSymmetricBeacon
+@documentation("Configures the kind of key that an encrypted blob represents.")
+union HierarchicalKeyType {
+  @documentation("The version the active branch key version. This version is used to encrypt messages")
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:15]:
```suggestion
  @documentation("The version the active branch key type. This version is used to encrypt messages.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 19]
```diff
@@ -0,0 +1,291 @@
...
+  ActiveHierarchicalSymmetricVersion: ActiveHierarchicalSymmetric,
+  //= aws-encryption-sdk-specification/framework/key-store/key-storage.md#hierarchicalsymmetricversion
+  //= type=implication
+  //# A structure that MUST have one member,
+  //# the UTF8 Encoded value of the version of the branch key.
+  @documentation("The version for a decrypt only branch key version. These versions are used to decrypt messages.")
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:21]:
```suggestion
  @documentation("The version for a decrypt only branch key type. These are used to decrypt messages. For every ACTIVE that has ever been, there exists a Version.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 20]
```diff
@@ -0,0 +1,291 @@
...
+
+  @required
+  @documentation("The ciphertext for this encrypted key.")
+  CiphertextBlob: Blob,
+}
+
+map EncryptionContextString {
+  key: String,
+  value: String,
+}
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:83]: It does not help Dafny. These are alias to a `map` in Dafny.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 21]
```diff
@@ -0,0 +1,291 @@
...
+operation WriteNewEncryptedBranchKeyVersion {
+  input: WriteNewEncryptedBranchKeyVersionInput,
+  output: WriteNewEncryptedBranchKeyVersionOutput,
+}
+@documentation("Get the ACTIVE branch key for encryption for an existing branch key.")
+operation GetEncryptedActiveBranchKey {
+  input: GetEncryptedActiveBranchKeyInput,
+  output: GetEncryptedActiveBranchKeyOutput,
+}
+@documentation("Gets a specific version for an existing branch key.")
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:126]:
```suggestion
@documentation("Get a specific branch key version for an existing branch key.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy (hunk 12 above)
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:162]: I don't want to push that constant name.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy (hunk 15 above)
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:198]:
```suggestion
  The decrypt representation of this branch key version.
  The plain-text cryptographic material of the `Version` must be the same as the `Active`.
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 22]
```diff
@@ -10,15 +10,15 @@ namespace aws.cryptography.keyStore
 //#- ActiveHierarchicalSymmetricVersion [HierarchicalSymmetricVersion](#hierarchicalsymmetricversion)
 //#- HierarchicalSymmetricVersion [HierarchicalSymmetricVersion](#hierarchicalsymmetricversion)
 //#- ActiveHierarchicalSymmetricBeacon
-@documentation("Configures the kind of key that an encrypted blob represents.")
+@documentation("Describes the key that an encrypted blob represents.")
 union HierarchicalKeyType {
-  @documentation("The version the active branch key version. This version is used to encrypt messages")
+  @documentation("The version the active branch key type. This version is used to encrypt messages.")
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:15]: Issue: This sentence is unreadable.

"The x the y" is a poor construction.
Why not "The active branch key type. The active is used to encrypt messages." ?

Why include the term "version"?

Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:15]:
```suggestion
  @documentation("The version the active branch key. This version is used to encrypt messages.")
```

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/KeyStore.smithy (hunk 5 above)
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/KeyStore.smithy:96]: I think that this change is a 2 way door.
As we update our use of the latest DDB Model we should consider this.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 23]
```diff
@@ -0,0 +1,291 @@
+// Copyright Amazon.com Inc. or its affiliates. All Rights Reserved.
+// SPDX-License-Identifier: Apache-2.0
+namespace aws.cryptography.keyStore
+
+
+//= aws-encryption-sdk-specification/framework/key-store/key-storage.md#type
+//= type=implication
+//# A union that MUST hold the following three options
+//#
+//#- ActiveHierarchicalSymmetricVersion [HierarchicalSymmetricVersion](#hierarchicalsymmetricversion)
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:10]: The JavaScript implementation may not need to aline like this. These objects only exits in runtime. They are not passed over an FFI or anything. It depends on the scope that would be needed. It clearly would be simple to make the names match.

I can update the spec for clarity. But it is trying to say that the element contains a type that holds the version information. At this time both `active` and `version` are specified to be the same physical shape. However, by keeping them different in the implementation the API can evolve safely.

The specification says that the union must hold the following 3 options. Which it does. It says that 2 of these options hold a single member that holds version information. Which they do.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/GetKeys.dfy [hunk 24]
```diff
@@ -121,113 +140,147 @@ module GetKeys {
...
-      KmsArn.ValidKmsArn?(encryptionContext[Structure.KMS_FIELD]),
-      Types.KeyStoreException( message := ErrorMessages.RETRIEVED_KEYSTORE_ITEM_INVALID_KMS_ARN)
-    );
-
-    :- Need(
-      KMSKeystoreOperations.AttemptKmsOperation?(kmsConfiguration, encryptionContext),
-      Types.KeyStoreException( message := ErrorMessages.GET_KEY_ARN_DISAGREEMENT)
+      || storage is DefaultKeyStorageInterface.DynamoDBKeyStorageInterface
+      || (
+           && Structure.ActiveHierarchicalSymmetricKey?(branchKeyItem)
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/GetKeys.dfy:154]: I put this in the class of "you have to be able to reproduce what you are given." The part you are talking about is a sub-string. I think that worrying about a custom implementations ability to incorrectly mess up part of just this string is unlikely. If they do this, I would not trust them to correctly reproduce any string, let alone this particular part of a particular string :).

Adding a requirement on the version is something that is not strictly speaking in scope for a change in storage and if needed can be added later by updating the spec.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/Structure.dfy [hunk 25]
```diff
@@ -428,99 +461,77 @@ module {:options "/functionSyntax:4" } Structure {
...
+    && EncryptedHierarchicalKey?(key)
+    && key.Type.ActiveHierarchicalSymmetricBeacon?
   }
 
-  lemma BranchKeyItemsDoNotCollide(a: ActiveBranchKeyItem, b: VersionBranchKeyItem, c: BeaconKeyItem)
-    requires a[BRANCH_KEY_IDENTIFIER_FIELD] == b[BRANCH_KEY_IDENTIFIER_FIELD] == c[BRANCH_KEY_IDENTIFIER_FIELD]
-    ensures a[TYPE_FIELD] != b[TYPE_FIELD]
-    ensures a[TYPE_FIELD] != c[TYPE_FIELD]
-    ensures c[TYPE_FIELD] != b[TYPE_FIELD]
+  lemma BranchKeyItemsDoNotCollide(
```
Comment (josecorella) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/Structure.dfy:481]: nice!

**Review by josecorella — COMMENTED** [review]
looking good!

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy [hunk 26]
```diff
@@ -0,0 +1,291 @@
...
+
+//= aws-encryption-sdk-specification/framework/key-store/key-storage.md#encryptedhierarchicalkey
+//= type=implication
+//# This structure MUST include all of the following fields:
+//#
+//#- [BranchKeyId](./structures.md#branch-key-id)
+//#- [Type](#type)
+//#- CreateTime: Timestamp in ISO 8601 format in UTC, to microsecond precision.
+//#- KmsArn: The AWS KMS Key ARN used to protect the CiphertextBlob value.
+//#- [EncryptionContext](./structures.md#encryption-context-3)
```
[the remark this answers is not in the document]
Comment (texastony) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/Model/Storage.smithy:56]: In the Key Storage specification, 
all Encryption Context references should point to
the Encryption Context definition in the Branch Key Store.
i.e: [Branch Key Store Encryption Context](./branch-key-store.md#encryption-context)

We can cut an issue to fix this later.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/AwsCryptographyKeyStoreOperations.dfy [hunk 27]
```diff
@@ -86,15 +122,29 @@ module AwsCryptographyKeyStoreOperations refines AbstractAwsCryptographyKeyStore
...
+
     ensures output.Success? ==>
+              && config.ddbTableName.Some?
               && AwsArnParsing.ParseAmazonDynamodbTableName(output.value.tableArn).Success?
-              && AwsArnParsing.ParseAmazonDynamodbTableName(output.value.tableArn).value == config.ddbTableName
+              && AwsArnParsing.ParseAmazonDynamodbTableName(output.value.tableArn).value == config.ddbTableName.value
   {
-    var ddbTableArn :- CreateKeyStoreTable.CreateKeyStoreTable(config.ddbTableName, config.ddbClient);
+
+    :- Need(config.ddbTableName.Some?
```
[the remark this answers is not in the document]
Comment (seebees) [reply AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/AwsCryptographyKeyStoreOperations.dfy:137]: There are a lot of things to consider when creating this table. We have found that it is much better to consider these things directly than trying to offer an API call.

File: AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultKeyStorageInterface.dfy [hunk 28]
```diff
@@ -0,0 +1,733 @@
...
+                && Seq.Last(ddbClient.History.GetItem).output.Success?
+                && Seq.Last(ddbClient.History.GetItem).output.value.Item.Some?
+                   //= aws-encryption-sdk-specification/framework/key-store/dynamodb-key-storage.md#getencryptedactivebranchkey
+                   //= type=implication
+                   //# The AWS DDB response MUST contain the fields defined in the [branch keystore record format](#record-format).
+                && Structure.BranchKeyItem?(Seq.Last(ddbClient.History.GetItem).output.value.Item.value)
+
+      ensures
+        && old(ddbClient.History.GetItem) < ddbClient.History.GetItem
+        && old(ddbClient.History.TransactWriteItems) == ddbClient.History.TransactWriteItems
```
Comment (texastony) [inline AwsCryptographicMaterialProviders/dafny/AwsCryptographyKeyStore/src/DefaultKeyStorageInterface.dfy:454]: @seebees What is going on here?

I just stumbled on this while working on Mutations,
but why assert the history of TransactWriteItems? 

Is this a copy-paste mistake?
